US07696215B2
To a stirred suspension of methyl 3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate (19.3 g) in a mixture of methanol (650 ml) and water (150 ml) was added 2N NaOH (89 ml) and heated to 70° C. until a clear solution was formed at which point the heating stopped. Stirring was continued for a further 1.5 hours. The pH was adjusted to pH˜1 with 1N HCl and the resultant solid collected by filtration. The solid was dried in vacuo for 16 hours to yield 3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoic acid as a white solid (17.8 g); NMR Spectrum: (DMSOd6) 2.15 (s, 3H), 3.88 (s, 3H), 7.49 (m, 1H), 7.57 (m, 2H), 7.71 (d, 1H), 7.93 (s, 1H), 7.98 (m, 1H), 8.20 (s, 1H); Mass Spectrum: M+H+ 311.

reactant | methyl 3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate | 19.3 g | COC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O | C18H16N2O4
reactant | NaOH | 2N, 89 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 650 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoic acid | 17.8 g | COC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)O)C=CC1C)=O | C17H14N2O4
